US08067445B2
Step 1: (3-Bromo-4-ethoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 123, Step 1, using the following starting materials: (3-bromo-4-hydroxy-phenyl)-acetic acid ethyl ester and iodoethane.

reactant | (3-bromo-4-hydroxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)O)Br)=O | C10H11BrO3
reactant | iodoethane | ICC | C2H5I
product | (3-Bromo-4-ethoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OCC)Br)=O | C12H15BrO3
